US07902252B2
2.108. Synthesis of 4-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (101)
The title compound was synthesized from methyl 4-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.0492 g, 0.18 mmol) and sodium hydroxide (0.45 mL, 10M, 25 equiv), according to General Procedure 7. A 1:4 mixture of THF and methanol (5 mL) was used. The resulting product was purified by preparative HPLC using the Chromeleon purification system. A 0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 40% methanol and increasing to 100% over 7 minutes) afforded the title compound (22.6 mg, 48%) with purity by HPLC of 93.6% (UV) and 100% (ELSD). LCMS m/e 260 (M−H). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.23-7.28 (m, 2H), 7.15-7.19 (m, 2H), 6.52 (s, 1H), 4.18 (t, J=7.17 Hz, 1H), 2.70-2.97 (m, 3H), 2.20 (dddd, J=12.75, 8.60, 6.53, 6.41 Hz, 1H).

reactant | methyl 4-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.18 mmol, 0.0492 g | ClC1=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)OC | C15H14ClNO2
reactant | sodium hydroxide | 10M, 0.45 mL, 25 equiv | [OH-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 4-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 22.6 mg, 48% | ClC1=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)O | C14H12ClNO2
